US07491710B2
The compound {2-[2-(5-benzyloxy-1H-indazol-3-yl)-1H-indol-6-yloxy]ethyl}diethylamine is prepared in the following way: 390 mg of 5-benzyloxy-3-[1-tert-butoxycarbonyl-6-(2-diethylaminoethoxy)-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester in solution in 5 ml of dichloromethane and 2 ml of trifluoroacetic acid are stirred at ambient temperature for 20 hours. The solvent is evaporated off under vacuum in a rotary evaporator to obtain 480 mg of {2-[2-(5-benzyloxy-1H-indazol-3-yl)-1-indol-6-yloxy]ethyl}diethylamine in the form of a trifluoroacetate salt.

reactant | 5-benzyloxy-3-[1-tert-butoxycarbonyl-6-(2-diethylaminoethoxy)-1H-indol-2-yl]-indazole-1-carboxylic acid tert-butyl ester | 390 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=1N(C2=CC(=CC=C2C1)OCCN(CC)CC)C(=O)OC(C)(C)C | C38H46N4O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | {2-[2-(5-benzyloxy-1H-indazol-3-yl)-1H-indol-6-yloxy]ethyl}diethylamine | C(C1=CC=CC=C1)OC=1C=C2C(=NNC2=CC1)C=1NC2=CC(=CC=C2C1)OCCN(CC)CC | C28H30N4O2
